US09108928B2
Under the nitrogen atmosphere, 5.0 g of 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate prepared according to the method of Comparative Example 4 (1) was added to 60 mL of 0.45 mol/L hydrochloric acid and dissolved therein by heating to 40 to 50° C. To the solution, 3.9 mL of 25% ammonia water was added dropwise over 10 minutes. pH of the reaction mixture was 6.6. After the dropwise addition was completed, the reaction solution was cooled to room temperature and stirred for 1 hour. The crystal was collected by filtration and then washed with a mixture liquid containing 5 mL of acetone and 10 mL of water followed by 15 mL of acetone to give 0.54 g of 5-hydroxy-1H-imidazole-4-carboxamide.3/4 hydrate as a blue crystal.

reactant | 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate | 5.0 g | O.O.Cl.OC1=C(N=CN1)C(=O)N
reactant | ammonia water | 3.9 mL | O.N
solvent | hydrochloric acid | 0.45 mol/L, 60 mL | Cl | ClH
product | 5-hydroxy-1H-imidazole-4-carboxamide | 0.54 g | OC1=C(N=CN1)C(=O)N | C4H5N3O2
